US05955476
A stirred mixture of ethyl bromofluoroacetate (1.0 g, 5.4 mmol) and potassium phthalide (1.0 g, 5.4 mmol) in dimethylformamide (10 mL) is heated at 80° C. for 3 hours. The mixture is stirred with ether (50 mL) and water (50 mL) and the organic layer then washed with water and brine (30 mL each), and dried over sodium sulfate. The solvent is removed in vacuo to give ethyl 2-(1,3-dioxoisoindolin-2-yl)-2-fluoroacetate which is further purified through chromatography.

reactant | ethyl bromofluoroacetate | 5.4 mmol, 1.0 g | BrC(C(=O)OCC)F | C4H6BrFO2
reactant | potassium phthalide | 5.4 mmol, 1.0 g | C1(=O)OCC2=CC=CC=C12.[K]
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | water | 50 mL | O | H2O
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(1,3-dioxoisoindolin-2-yl)-2-fluoroacetate | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC)F | C12H10FNO4
